US04246268
To a suspension of 2.5 g (0.1 mole) of magnesium in 20 ml of tetrahydrofuran is added gradually a solution of 25 g (0.1 mole) of 2-bromo-3-ethoxynaphthalene in 25 ml of tetrahydrofuran. The agitated mixture is refluxed for 1 hour and a solution of 1.4 g (0.1 mole) of 4-chloromethylpyridine dissolved in tetrahydrofuran added gradually. The mixture is refluxed for 3 hours, a saturated ammonium chloride solution is added, the reaction mixture is extracted with ether, and the organic phase washed with sodium carbonate and dried over sodium sulfate. The ether is evaporated and the resulting 4-[(3-ethoxy-2-naphthyl)methyl]pyridine dissolved in acetic acid and agitated in a Parr apparatus in the presence of 1.5 g of platinum oxide. Hydrogen gas is introduced and the reaction continued until 0.3 mole of hydrogen is consumed. The solution is filtered and the solvent removed in vacuo. The residue is dissolved in ether and an excess of dry HCl bubbled through the solution to yield 4 -[(3-ethoxy-2-naphthyl)methyl]piperidine hydrochloride.

reactant | magnesium | 0.1 mole, 2.5 g | [Mg] | Mg
reactant | 2-bromo-3-ethoxynaphthalene | 0.1 mole, 25 g | BrC1=CC2=CC=CC=C2C=C1OCC | C12H11BrO
reactant | 4-chloromethylpyridine | 0.1 mole, 1.4 g | ClCC1=CC=NC=C1 | C6H6ClN
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | hydrogen | 0.3 mole | [H][H] | H2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 4 -[(3-ethoxy-2-naphthyl)methyl]piperidine hydrochloride | Cl.C(C)OC=1C(=CC2=CC=CC=C2C1)CC1CCNCC1 | InChI=1S/C18H23NO.ClH/c1-2-20-18-13-16-6-4-3-5-15(16)12-17(18)11-14-7-9-19-10-8-14;/h3-6,12-14,19H,2,7-11H2,1H3;1H
